US09085555B2
B. (2S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-4-morpholin-4-ylmethyl pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-hydroxy-4-morpholin-4-ylmethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (85 mg, 0.18 mmol) in CH2Cl2 (10 mL) under N2 atmosphere at −78° C. was added DAST (47 μL, 0.359 mmol). The reaction mixture was then allowed to reach RT and further stirred for 1.5 h then poured into an aqueous saturated solution of NaHCO3 and extracted twice with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (CH2Cl2/MeOH 8:2) to give the desired material. MS (LC/MS): 474.1/476.2 [M+H]+, 472.1 [M−H]−; tR (HPLC conditions f): 1.59 min.

reactant | (2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-hydroxy-4-morpholin-4-ylmethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.18 mmol, 85 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(CN1CCOCC1)O)C(NCC1=C(C(=CC=C1)Cl)F)=O | C22H31ClFN3O5
reactant | DAST | 0.359 mmol, 47 μL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-4-morpholin-4-ylmethyl pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(CN1CCOCC1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O | C22H30ClF2N3O4
